US04259336
7-Chloro-4-hydroxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide
Prepared analogous to Example 1 from methyl 7-chloro-4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide and 2-amino-5-methyl-thiazole with a yield of 42% of theory.

reactant | methyl 7-chloro-4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide | ClC1=CC2=C(C=C1)C1=C(C(=C(N(S1(=O)=O)C)C(=O)OC)O)S2 | C13H10ClNO5S2
reactant | 2-amino-5-methyl-thiazole | NC=1SC(=CN1)C | C4H6N2S
product | 7-Chloro-4-hydroxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | yield of 42% | ClC1=CC2=C(C=C1)C1=C(C(=C(N(S1(=O)=O)C)C(=O)NC=1SC(=CN1)C)O)S2 | C16H12ClN3O4S3
